US06894045B2
3-(2,4-dichlorophenyl)-8-ethyl-1-methyl-7-[1-(2-propenyl)-3-butenyl]-1,2,3,7-tetrahydro-6H-purin-6-one
Prepared by the method described in example 8 using the appropriate starting materials except for part “B” to give the desired product. Part “B” was replaced with the following procedure. A solution of 3-(2,4-dichlorophenyl)-8-ethyl-1-methyl-1,2,3,7-tetrahydro-6H-purin-6-one (65 mg, 0.20 mmol) in anhydrous DMF (1.2 mL) was treated with finely ground K2CO3 (83 mg, 0.60 mmol). After stirring 5 min at rt, 4-methanesulfonyl-1,6-heptadiene (203 μL, 1.11 mmol) was added via syringe and the reaction mixture was heated at 90° C. for 4 h. The mixture was cooled to rt and transferred to a separatory funnel containing ether (50 mL). The organic layer was washed with water (4×15 mL), brine (15 mL), dried over MgSO4, filtered, and concentrated. Purification of the residue by prep plate (1000 μM silica gel plate, 25% ethyl acetate in hexanes) followed by further purification by reverse phase HPLC afforded the title compound (15 mg, 18% yield) as a colorless oil; HRMS (ESI) m/e 419.1435 [(M+H)+, calcd for C21H25N4OCl2 419.1405].

reactant | 3-(2,4-dichlorophenyl)-8-ethyl-1-methyl-1,2,3,7-tetrahydro-6H-purin-6-one | 0.20 mmol, 65 mg | ClC1=C(C=CC(=C1)Cl)N1CN(C(C=2NC(=NC12)CC)=O)C | C14H14Cl2N4O
reactant | K2CO3 | 0.60 mmol, 83 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methanesulfonyl-1,6-heptadiene | 1.11 mmol, 203 μL | CS(=O)(=O)C(CC=C)CC=C | C8H14O2S
reactant | ether | 50 mL | CCOCC | C4H10O
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
product | 3-(2,4-dichlorophenyl)-8-ethyl-1-methyl-7-[1-(2-propenyl)-3-butenyl]-1,2,3,7-tetrahydro-6H-purin-6-one | 15 mg, 18% yield | ClC1=C(C=CC(=C1)Cl)N1CN(C(C=2N(C(=NC12)CC)C(CC=C)CC=C)=O)C | C21H24Cl2N4O
